US03985727
EXAMPLE 4: Methyl 3-(N-methylacetamido)-3-deoxy-2,4,6-tri-O-benzyl-β-D-galactopyranoside
Dissolve methyl 3-acetamido-3-deoxy-2,4,6-tri-O-benzyl-β-D-galactopyranoside (5.05 g.) in dry DMF (100 ml.). With stirring in an atomsphere of dry nitrogen add 0.25 g. of sodium hydride and allow the mixture to stir for 1 hour. Add methyl iodide (2.0 g.) and continue stirring at room temperature for 16 hours. Evaporate the mixture in vacuo to ca 10 ml. then dilute with chloroform. Cautiously add water and shake, separate the layers and re-extract the chloroform layer 3 times with water. Dry the chloroform solution and evaporate to 50 ml. Add hexane to precipitate the title product of this example. Yield ca 4.7 g.

reactant | methyl 3-acetamido-3-deoxy-2,4,6-tri-O-benzyl-β-D-galactopyranoside | 5.05 g | C(C)(=O)N[C@@H]1[C@H]([C@H](OC)O[C@@H]([C@@H]1OCC1=CC=CC=C1)COCC1=CC=CC=C1)OCC1=CC=CC=C1 | C30H35NO6
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | 2.0 g | CI | CH3I
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | Methyl 3-(N-methylacetamido)-3-deoxy-2,4,6-tri-O-benzyl-β-D-galactopyranoside | CN(C(C)=O)[C@@H]1[C@H]([C@H](OC)O[C@@H]([C@@H]1OCC1=CC=CC=C1)COCC1=CC=CC=C1)OCC1=CC=CC=C1 | C31H37NO6
